2198-09-20 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2198-9-19**] 07:50 PM
   -attempted to wean of phenylephrine, but SBPs fell into 70s
   -given 500cc LR bolus
   -bps labile 70-80s
   -neo on at 1mcg/kg/min
   HCT 30.4 to 26 this AM
   -total dilaudid use 7.77mg
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 53 (53 - 76) bpm
   BP: 159/71(100) {72/39(50) - 159/71(100)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,479 mL
                                                                    899 mL
   PO:
             TF:
   IVF:
                                                                  5,647 mL
                                                                    899 mL
   Blood products:
                                                                  1,022 mL
   Total out:
                                                                  6,820 mL
                                                                    520 mL
   Urine:
                                                                    100 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,659 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: Well appearing, NAD. Obese.
   CV: RRR. No murmurs.
   Lungs: CTAB. No wheezes.
   Abdomen: Obese, soft, NT, ND.
   Extremities: No edema. R thigh has surgical bandage in place. Clean,
   dry, intact.
   Neuro: A+O x3. Appropriate. Able to move all extremities.
   Labs / Radiology
   260 K/uL
   8.9 g/dL
   148 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.0 mEq/L
   17 mg/dL
   108 mEq/L
   137 mEq/L
   26.2 %
   12.4 K/uL
        [image002.jpg]
                             [**2198-9-19**]  08:34 PM
                             [**2198-9-20**]  12:45 AM
                             [**2198-9-20**]  05:07 AM
   WBC
   14.9
   12.4
   Hct
   30.7
   28.9
   26.2
   Plt
   278
   260
   Cr
   1.0
   1.1
   1.2
   Glucose
   220
   148
   Other labs: PT / PTT / INR:13.3/29.5/1.1, Ca++:8.2 mg/dL, Mg++:3.2
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A/P: 63 yo F with a history of CAD s/p MI in [**3-/2198**] with bare metal
   stent placement x2 as well as metastatic renal cell carcinoma s/p
   nephrectomy and multiple surgical interventions for a pathologic right
   femoral fracture admitted for elective osteotomy with [**Hospital 4269**]
   transferred to the ICU after the procedure was complicated by
   significant intra-operative blood loss.
   .
   # Right femoral surgery complicated by significant intra-op blood loss.
   Estimated 3.5L blood loss prior to hemostasis achieved. Status post 3U
   PRBCs and 5L IVF.
   - 2 large bore peripheral IV's. Typed and screened.
   - HCT dropped from 30.7 to 26.2 over 12 hours. Will transfuse 1 unit
   PRBCs given history of ischemia.
   -follow HCT q4h
   -IVF NS 2L @ 100mL/hr
   -attempt to wean phenylephrine this AM. If can
t, consider central line
   placement.
   - Will restart aspirin this AM. Hold plavix till HCT stabilized.
   .
   # Metastatic renal cell carcinoma. Followed by Dr. [**First Name (STitle) 326**] in [**Location 4270**]
   [**State 4271**]as well as Drs. [**Last Name (STitle) 897**] and [**Name5 (PTitle) **] at [**Hospital1 54**].
   - Contact outpatient oncologists regarding ongoing management of RCC.
   .
   # Pathologic right femoral fracture. S/p surgical repair with
   complications as above.
   - Surgery following.
   - Pain control with acetaminophen and dilaudid PCA. Hold home
   hydromorphone and piroxicam for now, though will restart in the near
   future.
   - Patient may need pain consult given history of high pain med
   requirements.
   .
   # CAD s/p MI in [**2198-2-6**] with bare metal stents placed.
   -trend cardiac enzymes
   - Restart ASA this AM. Hold Plavix till HCT stable.
   - Hold beta blocker, ACEi pending improved bp's this afternoon.
   .
   # Hypertension. Continue home beta-blocker and ACEi.
   .
   # CHF. EF on recent persantine stress within normal limits.
   - Monitor closely for volume overload given aggressive volume
   rescucitation.
   - Hold beta blocker, ACEi pending improved bp's then restart, likely in
   AM. Continue statin.
   .
   # FEN: Regular diet.
   .
   # Prophylaxis: PPI, heparin subq to start in AM, pneumoboots overnight,
   bowel regimen.
   .
   # Access: Peripheral IV. Consider central line this afternoon if still
   requires pressors. Has a-line R radial artery.
   .
   # Contact: Dr. [**Name (NI) 4272**] [**Name (NI) 3193**] (brother) [**Telephone/Fax (1) 4273**]; Dr. [**Name (NI) 4274**] [**Name (NI) 3193**]
   (brother) number unknown currently; Business partner's wife Mr. [**First Name8 (NamePattern2) 4275**]
[**Last Name (NamePattern1) 4276**] number unknown currently.
   .
   # Code: Presumed full.
   .
   # Dispo: ICU care till off pressors and HCT stable.
   ICU Care
   Lines:
   18 Gauge - [**2198-9-19**] 07:49 PM
   Arterial Line - [**2198-9-19**] 07:50 PM
   16 Gauge - [**2198-9-19**] 07:50 PM

2198-09-20 10:53:00 Physician Attending Progress Note
Chief Complaint: Post-operative hypotension
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2198-9-19**] 07:50 PM
   Sciatic nerve catheter in place for pain control.
   PCA pump for pain control.
   Remains on vasopressor to maintain MAP > 60 mmHg.
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Infusions:
   Phenylephrine - 0.9 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-10**] Mild
   Pain location: right hip
   Flowsheet Data as of  [**2198-9-20**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 67 (53 - 76) bpm
   BP: 67/49(56) {67/39(50) - 159/78(100)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,479 mL
                                                                  1,550 mL
   PO:
           70 mL
   TF:
   IVF:
                                                                  5,647 mL
                                                                  1,327 mL
   Blood products:
                                                                  1,022 mL
                                                                    153 mL
   Total out:
                                                                  6,820 mL
                                                                    880 mL
   Urine:
                                                                    100 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,659 mL
                                                                    670 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Right Hip surgical incision
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   260 K/uL
   148 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.0 mEq/L
   17 mg/dL
   108 mEq/L
   137 mEq/L
   26.2 %
   12.4 K/uL
        [image002.jpg]
                             [**2198-9-19**]  08:34 PM
                             [**2198-9-20**]  12:45 AM
                             [**2198-9-20**]  05:07 AM
   WBC
   14.9
   12.4
   Hct
   30.7
   28.9
   26.2
   Plt
   278
   260
   Cr
   1.0
   1.1
   1.2
   Glucose
   220
   148
   Other labs: PT / PTT / INR:13.3/29.5/1.1, Ca++:8.2 mg/dL, Mg++:3.2
   mg/dL, PO4:1.9 mg/dL
   Imaging: CXR ([**2198-9-20**]) elevated left hemi-diaphragm vs. subpulmonic
   effusion.
   Assessment and Plan
   Post-op hypotension
   HYPOTENSION -- hypovolemia (predominately blood loss).  Plan to volume
   resussitate (may require central line, esp. if remains
   HYPOVOLVEMIA -- volume resussitate.  [**Month (only) 60**] require central venous access.
   ANEMIA -- intraoperative blood loss.  Concern for continued bleeding
   into operative site.  Monitor serial Hct.  Transfuse to Hct >25.
   LEFT HEMIDIAPHRAGM ELEVATION
 suspect related to prior left
   nephrectomy (post-operative hemidiaphragm paresis).  Possible
   subpleural effusion (less likely).
   RENAL FUNCTION -- single kidney ; s/p left kidney resection in past.
   Maintain adequate hydration.  Avoid nephrotoxins.  Monitor urine
   output, BUN, creatinine.
   CAD -- s/p bare metal stent placement (remote); resume ASA, consider
   resuming plavix (hold if continued breathing).  R/O MI protocol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-9-19**] 07:49 PM
   Arterial Line - [**2198-9-19**] 07:50 PM
   16 Gauge - [**2198-9-19**] 07:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2198-09-21 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hypotension yesterday, intermitently on neo drip.  Also had a right IJ
   placed.  Also had 1.5 L fluid and 2units PRBCs for HCT 24.4-23.3-24.3,
   concern for bleeding into her hip.  Blood pressure difficult to assess,
   cuff pressure and A-line often discordant.  Patient mentating well the
   entire 24 hours.  Urine output picked up over night 75-100cc.  Talked
   to Ortho who did not feel imaging of the hip was necessary.
 TRANSTHORACIC ECHO - At [**2198-9-20**] 11:15 AM
 ARTERIAL LINE - STOP [**2198-9-20**] 02:00 PM
 TRIPLE INTRODUCER - START [**2198-9-20**] 04:00 PM
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-21**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-21**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 83 (61 - 89) bpm
   BP: 110/58(67) {72/28(45) - 134/91(102)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,001 mL
                                                                    631 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                  4,911 mL
                                                                    631 mL
   Blood products:
                                                                  1,020 mL
   Total out:
                                                                  1,540 mL
                                                                    480 mL
   Urine:
                                                                  1,540 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,461 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   8.2 g/dL
   103 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   14 mg/dL
   111 mEq/L
   138 mEq/L
   24.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2198-9-19**]  08:34 PM
                             [**2198-9-20**]  12:45 AM
                             [**2198-9-20**]  05:07 AM
                             [**2198-9-20**]  01:18 PM
                             [**2198-9-20**]  05:14 PM
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
   WBC
   14.9
   12.4
   7.8
   7.6
   Hct
   30.7
   28.9
   26.2
   23.3
   24.4
   23.3
   24.3
   24.2
   Plt
   [**Telephone/Fax (3) 4336**]13
   Cr
   1.0
   1.1
   1.2
   1.2
   1.0
   TropT
   0.02
   0.05
   0.03
   Glucose
   220
   148
   113
   103
   Other labs: PT / PTT / INR:13.3/29.5/1.1, CK / CKMB /
   Troponin-T:451/7/0.03, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   A/P: 63 yo F with a history of CAD s/p MI in [**3-/2198**] with bare metal
   stent placement x2 as well as metastatic renal cell carcinoma s/p
   nephrectomy and multiple surgical interventions for a pathologic right
   femoral fracture admitted for elective osteotomy with [**Hospital 4269**]
   transferred to the ICU after the procedure was complicated by
   significant intra-operative blood loss.
   .
   # Right femoral surgery complicated by significant intra-op blood loss.
   Estimated 3.5L blood loss prior to hemostasis achieved. Status post 3U
   PRBCs and 5L IVF.
   - 2 large bore peripheral IV's. Typed and screened.
   - HCT dropped from 30.7 to 26.2 over 12 hours. Will transfuse 1 unit
   PRBCs given history of ischemia.
   -follow HCT q4h
   -IVF NS 2L @ 100mL/hr
   -attempt to wean phenylephrine this AM. If can
t, consider central line
   placement.
   - Will restart aspirin this AM. Hold plavix till HCT stabilized.
   .
   # Metastatic renal cell carcinoma. Followed by Dr. [**First Name (STitle) 326**] in [**Location 4270**]
   [**State 4271**]as well as Drs. [**Last Name (STitle) 897**] and [**Name5 (PTitle) **] at [**Hospital1 54**].
   - Contact outpatient oncologists regarding ongoing management of RCC.
   .
   # Pathologic right femoral fracture. S/p surgical repair with
   complications as above.
   - Surgery following.
   - Pain control with acetaminophen and dilaudid PCA. Hold home
   hydromorphone and piroxicam for now, though will restart in the near
   future.
   - Patient may need pain consult given history of high pain med
   requirements.
   .
   # CAD s/p MI in [**2198-2-6**] with bare metal stents placed.
   -trend cardiac enzymes
   - Restart ASA this AM. Hold Plavix till HCT stable.
   - Hold beta blocker, ACEi pending improved bp's this afternoon.
   .
   # Hypertension. Continue home beta-blocker and ACEi.
   .
   # CHF. EF on recent persantine stress within normal limits.
   - Monitor closely for volume overload given aggressive volume
   rescucitation.
   - Hold beta blocker, ACEi pending improved bp's then restart, likely in
   AM. Continue statin.
   .
   # FEN: Regular diet.
   .
   # Prophylaxis: PPI, heparin subq to start in AM, pneumoboots overnight,
   bowel regimen.
   .
   # Access: Peripheral IV. Consider central line this afternoon if still
   requires pressors. Has a-line R radial artery.
   .
   # Contact: Dr. [**Name (NI) 4272**] [**Name (NI) 3193**] (brother) [**Telephone/Fax (1) 4273**]; Dr. [**Name (NI) 4274**] [**Name (NI) 3193**]
   (brother) number unknown currently; Business partner's wife Mr. [**First Name8 (NamePattern2) 4275**]
[**Last Name (NamePattern1) 4276**] number unknown currently.
   .
   # Code: Presumed full.
   .
   # Dispo: ICU care till off pressors and HCT stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-20**] 09:00 AM
   Triple Introducer - [**2198-9-20**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2198-09-21 10:53:00 Physician Attending Progress Note
Chief Complaint: Anemia, post-op
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2198-9-20**] 11:15 AM
 ARTERIAL LINE - STOP [**2198-9-20**] 02:00 PM
 TRIPLE INTRODUCER - START [**2198-9-20**] 04:00 PM
   No hypotension.  Now off vasopressors.
   Central access obtained yesterday.
   Continues to require PRBC transfusion (total 7 U PRBC)
                                  History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-10**] Mild
   Pain location: Right hip
   Flowsheet Data as of  [**2198-9-21**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 85 (65 - 89) bpm
   BP: 130/52(78) {72/28(45) - 134/91(102)} mmHg
   RR: 20 (12 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  6,001 mL
                                                                  1,287 mL
   PO:
                                                                     70 mL
                                                                     70 mL
   TF:
   IVF:
                                                                  4,911 mL
                                                                  1,046 mL
   Blood products:
                                                                  1,020 mL
                                                                    170 mL
   Total out:
                                                                  1,540 mL
                                                                  1,240 mL
   Urine:
                                                                  1,540 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,461 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   113 K/uL
   103 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   14 mg/dL
   111 mEq/L
   138 mEq/L
   24.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2198-9-19**]  08:34 PM
                             [**2198-9-20**]  12:45 AM
                             [**2198-9-20**]  05:07 AM
                             [**2198-9-20**]  01:18 PM
                             [**2198-9-20**]  05:14 PM
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
   WBC
   14.9
   12.4
   7.8
   7.6
   Hct
   30.7
   28.9
   26.2
   23.3
   24.4
   23.3
   24.3
   24.2
   Plt
   [**Telephone/Fax (3) 4336**]13
   Cr
   1.0
   1.1
   1.2
   1.2
   1.0
   TropT
   0.02
   0.05
   0.03
   0.02
   Glucose
   220
   148
   113
   103
   Other labs: PT / PTT / INR:13.0/33.0/1.1, CK / CKMB /
   Troponin-T:451/5/0.02, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   post-op right hip orthopedic surgery
   ANEMIA -- blood loss, likely bleeding into right hip surgical field.
   Continues to require PRBC transfusionl.  Monitor for stable Hct.  Aim
   for Hct > 30 (CAD).  Consider leg CT scan.
   CAD
 no active disease.  Monitor.
   HYPOTENSION -- resolved.
   PAIN CONTROL -- PCA PUMP
   NAUSEA
 Good control.
   NUTRITIONAL SUPPORT -- PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-20**] 09:00 AM
   Triple Introducer - [**2198-9-20**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2198-09-22 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT not going up despite 2 units yesterday evening. Given one more unit
   PRBCs overnight
total of 8 units in the ICU
   -5am HCT 30.4
   CXR: no mediastinal enlargment
   restarted Metoprolol 12.5mg po bid -bp stable
   Ortho doesn't plan on taking her back to the OR
   Given 20mg IV lasix overnight -concern for volume overload
   currently on clear liquid diet
   Dilaudid 8mg po q4h PRN pain restarted
   Complains of gouty pain of L big toe
has been getting Tylenol
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-22**] 12:48 AM
   Furosemide (Lasix) - [**2198-9-22**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-22**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 62 (62 - 88) bpm
   BP: 122/61(73) {105/35(58) - 147/99(89)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156.6 kg (admission): 120 kg
           Total In:
                                                                  2,890 mL
                                                                  1,024 mL
   PO:
                                                                    410 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,683 mL
                                                                    134 mL
   Blood products:
                                                                    797 mL
                                                                    410 mL
   Total out:
                                                                  2,940 mL
                                                                  2,720 mL
   Urine:
                                                                  2,940 mL
                                                                  2,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                 -1,696 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   10.7 g/dL
   107 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   30.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2198-9-20**]  05:07 AM
                             [**2198-9-20**]  01:18 PM
                             [**2198-9-20**]  05:14 PM
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
                             [**2198-9-21**]  12:06 PM
                             [**2198-9-21**]  08:33 PM
                             [**2198-9-22**]  12:11 AM
                             [**2198-9-22**]  04:58 AM
   WBC
   12.4
   7.8
   7.6
   6.9
   Hct
   26.2
   23.3
   24.4
   23.3
   24.3
   24.2
   24.9
   25.6
   26.5
   30.4
   Plt
   [**Telephone/Fax (3) 4396**]42
   Cr
   1.2
   1.2
   1.0
   0.8
   TropT
   0.02
   0.05
   0.03
   0.02
   Glucose
   148
   113
   103
   107
   Other labs: PT / PTT / INR:12.8/32.7/1.0, CK / CKMB /
   Troponin-T:451/5/0.02, Alk Phos / T Bili:/0.4, LDH:175 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   63 yo F with a history of CAD s/p MI in [**3-/2198**] with bare metal stent
   placement x2 as well as metastatic renal cell carcinoma s/p nephrectomy
   and multiple surgical interventions for a pathologic right femoral
   fracture admitted for elective osteotomy with re-cementing transferred
   to the ICU after the procedure was complicated by significant
   intra-operative blood loss.
    # Right femoral surgery complicated by significant intra-op blood
   loss. Estimated 3.5L blood loss prior to hemostasis achieved. Including
   intra-op has not reveived 7units PRBCs, plus one unit right now.  Her
   HCT is stable but should have increased unless she has active bleeding
   or hemolysis.  It is possible that she is bleeding into her hip as it
   is painful and increasingly tight.
   - will need to have cordis changed over wire to triple lumen vs eval
   for PICC
   - Our transfusion goal is 28 given her cardiac disease,  will give 1
   unit this am and contact ortho
   -  follow HCT q6h, though will wait 2 hours post-transfusion until next
   HCT
   - IVF NS @ 100mL/hr
   - Holding aspitin and plvix until she has no more evidence for
   bleeding.
   - Order hemolysis labs.
   # Metastatic renal cell carcinoma. Followed by Dr. [**First Name (STitle) 326**] in [**Location 4270**]
   [**Doctor Last Name 4271**]as well as Drs. [**Last Name (STitle) 897**] and [**Name5 (PTitle) **] at [**Hospital1 54**].
   - Contact outpatient oncologists regarding ongoing management of RCC.
    # Pathologic right femoral fracture. S/p surgical repair with
   complications as above.
    - Surgery following.
   # Pain control with acetaminophen and po dialaudid and dilaudid PCA.
will d/c PCA today
   - Pain consult
   # CAD s/p MI in [**2198-2-6**] with bare metal stents placed.
   -CE negative
   -holding aspirin and plavix [**3-10**] possible bleeding
    - Continue BB
   # CHF. EF >55%,
   - Monitor closely for volume overload given aggressive volume
   rescucitation.
    Continue statin, BB.
   # FEN: Clear liquid diet. ADAT.
   # Prophylaxis: PPI, heparin subq, pneumoboots overnight, bowel regimen.
   # Access: central line
   # Contact: Dr. [**Name (NI) 4272**] [**Name (NI) 3193**] (brother) [**Telephone/Fax (1) 4273**]; Dr. [**Name (NI) 4274**] [**Name (NI) 3193**]
   (brother) number unknown currently; Business partner's wife Mr. [**First Name8 (NamePattern2) 4275**]
[**Last Name (NamePattern1) 4276**] number unknown currently.
   # Code: Presumed full.
   # Dispo: Recheck HCT in 6 hours. If stable, d/c to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Triple Introducer - [**2198-9-20**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical exam:
   Gen: Well appearing, NAD. Obese.
   Lungs: CTAB. No wheezes or crackles.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses.
   Extremities: Surgical site looks clean, dry, intact.  Left toe is
   tender to palpation, though no evidence of bruising or trauma to skin.
   Warm, well perfused. No edema.
   Neuro: A+O x3. Able to move all extremities.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4402**] [**Name8 (MD) 4403**], MD
   on:[**2198-9-22**] 13:01 ------

2198-09-22 11:50:00 Physician Attending Progress Note
Chief Complaint: Anemia, post-op
   HPI:
   24 Hour Events:
   Received additional 3 U PRBC yesterday (total 11 U PRBC).
   Continues to use PCA pump.
   States overall improved today, less pain.
   No nausea.  Tolerating diet.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-9-20**] 01:06 AM
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-22**] 12:48 AM
   Furosemide (Lasix) - [**2198-9-22**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-10**] Mild
   Pain location: Right hip
   Flowsheet Data as of  [**2198-9-22**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 61 (61 - 88) bpm
   BP: 110/60(73) {105/49(64) - 147/99(89)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156.6 kg (admission): 120 kg
           Total In:
                                                                  2,890 mL
                                                                  1,241 mL
   PO:
                                                                    410 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,683 mL
                                                                    231 mL
   Blood products:
                                                                    797 mL
                                                                    410 mL
   Total out:
                                                                  2,940 mL
                                                                  3,380 mL
   Urine:
                                                                  2,940 mL
                                                                  3,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                 -2,139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): PERSON, PLACE, TIME, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   142 K/uL
   107 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   30.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2198-9-20**]  05:07 AM
                             [**2198-9-20**]  01:18 PM
                             [**2198-9-20**]  05:14 PM
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
                             [**2198-9-21**]  12:06 PM
                             [**2198-9-21**]  08:33 PM
                             [**2198-9-22**]  12:11 AM
                             [**2198-9-22**]  04:58 AM
   WBC
   12.4
   7.8
   7.6
   6.9
   Hct
   26.2
   23.3
   24.4
   23.3
   24.3
   24.2
   24.9
   25.6
   26.5
   30.4
   Plt
   [**Telephone/Fax (3) 4396**]42
   Cr
   1.2
   1.2
   1.0
   0.8
   TropT
   0.02
   0.05
   0.03
   0.02
   Glucose
   148
   113
   103
   107
   Other labs: PT / PTT / INR:12.8/32.7/1.0, CK / CKMB /
   Troponin-T:451/5/0.02, Alk Phos / T Bili:/0.4, LDH:175 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   Post-op anemia.
   ANEMIA
 hct now improved following total 11 U PRBC.  Presumed bleeding
   into operative field.  Clinically stable.  Monitor serial Hct to
   confirm stability.
   POST-OP, -- s/p right hip/femur debridement, hardware.  Stable.
   PAIN MANAGEMENT
 improved control post-op.  Hope to d/c PCA, use oral
   meds.
   FLUIDS
 euvolemic.  Monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT
 advance diet as per Ortho surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Triple Introducer - [**2198-9-20**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2198-09-23 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRIPLE INTRODUCER - STOP [**2198-9-22**] 04:00 PM
 PICC LINE - START [**2198-9-22**] 06:09 PM
   Ortho would prefer 30mg [**Hospital1 **] subQ lovenox. Currently on SubQ heparin.
   Complains of L toe gout -got 2 doses of Colchicine which she normally
   takes at home.
   HCT stable: 30.4>>29.8>>31.3>>29.2
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-23**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 65 (61 - 82) bpm
   BP: 138/60(79) {110/41(65) - 149/68(80)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156.6 kg (admission): 120 kg
                  Total In:
                                                                  1,832 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    462 mL
   Blood products:
                                                                    410 mL
   Total out:
                                                                  4,260 mL
                                                                  1,250 mL
   Urine:
                                                                  4,260 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,428 mL
                                                                 -1,010 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   10.5 g/dL
   102 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   12 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
                             [**2198-9-21**]  12:06 PM
                             [**2198-9-21**]  08:33 PM
                             [**2198-9-22**]  12:11 AM
                             [**2198-9-22**]  04:58 AM
                             [**2198-9-22**]  11:50 AM
                             [**2198-9-22**]  05:50 PM
                             [**2198-9-23**]  04:26 AM
   WBC
   7.6
   6.9
   6.0
   Hct
   23.3
   24.3
   24.2
   24.9
   25.6
   26.5
   30.4
   29.8
   31.1
   29.2
   Plt
   113
   142
   169
   Cr
   1.0
   0.8
   0.8
   TropT
   0.02
   Glucose
   103
   107
   102
   Other labs: PT / PTT / INR:12.8/32.7/1.0, CK / CKMB /
   Troponin-T:451/5/0.02, Alk Phos / T Bili:/0.4, LDH:175 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   63 yo F with a history of CAD s/p MI in [**3-/2198**] with bare metal stent
   placement x2 as well as metastatic renal cell carcinoma s/p nephrectomy
   and multiple surgical interventions for a pathologic right femoral
   fracture admitted for elective osteotomy with re-cementing transferred
   to the ICU after the procedure was complicated by significant
   intra-operative blood loss.
    # Right femoral surgery complicated by significant intra-op blood
   loss. Estimated 3.5L blood loss prior to hemostasis achieved. Including
   intra-op has not reveived 7units PRBCs, plus one unit right now.  Her
   HCT is stable but should have increased unless she has active bleeding
   or hemolysis.  It is possible that she is bleeding into her hip as it
   is painful and increasingly tight.
   - will need to have cordis changed over wire to triple lumen vs eval
   for PICC
   - Our transfusion goal is 28 given her cardiac disease,  will give 1
   unit this am and contact ortho
   -  follow HCT q6h, though will wait 2 hours post-transfusion until next
   HCT
   - IVF NS @ 100mL/hr
   - Holding aspitin and plvix until she has no more evidence for
   bleeding.
   - Order hemolysis labs.
   # Metastatic renal cell carcinoma. Followed by Dr. [**First Name (STitle) 326**] in [**Location 4270**]
   [**State 4271**]as well as Drs. [**Last Name (STitle) 897**] and [**Name5 (PTitle) **] at [**Hospital1 54**].
   - Contact outpatient oncologists regarding ongoing management of RCC.
    # Pathologic right femoral fracture. S/p surgical repair with
   complications as above.
    - Surgery following.
   # Pain control with acetaminophen and po dialaudid and dilaudid PCA.
will d/c PCA today
   - Pain consult
   # CAD s/p MI in [**2198-2-6**] with bare metal stents placed.
   -CE negative
   -holding aspirin and plavix [**3-10**] possible bleeding
    - Continue BB
   # CHF. EF >55%,
   - Monitor closely for volume overload given aggressive volume
   rescucitation.
    Continue statin, BB.
   # FEN: Clear liquid diet. ADAT.
   # Prophylaxis: PPI, heparin subq, pneumoboots overnight, bowel regimen.
   # Access: central line
   # Contact: Dr. [**Name (NI) 4272**] [**Name (NI) 3193**] (brother) [**Telephone/Fax (1) 4273**]; Dr. [**Name (NI) 4274**] [**Name (NI) 3193**]
   (brother) number unknown currently; Business partner's wife Mr. [**First Name8 (NamePattern2) 4275**]
[**Last Name (NamePattern1) 4276**] number unknown currently.
   # Code: Presumed full.
   # Dispo: Recheck HCT in 6 hours. If stable, d/c to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2198-9-22**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-09-23 11:12:00 Physician Attending Progress Note
Chief Complaint: Anemia
   HPI:
   24 Hour Events:
 TRIPLE INTRODUCER - STOP [**2198-9-22**] 04:00 PM
 PICC LINE - START [**2198-9-22**] 06:09 PM
 CALLED OUT
   Desribes left toe pain (attributes to Gout) --> colchicine prescribed.
   No clinical evidence for bleed.
   Episode of vomitting this AM --> biliary emesis.  Resolved, and able to
   eat breakfast.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   swelling;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2198-9-20**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-9-23**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-10**] Mild
   Pain location: right hip
   Flowsheet Data as of  [**2198-9-23**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 101 (61 - 101) bpm
   BP: 155/94(79) {116/41(65) - 155/94(80)} mmHg
   RR: 22 (12 - 26) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 156.6 kg (admission): 120 kg
                  Total In:
                                                                  1,832 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    462 mL
   Blood products:
                                                                    410 mL
   Total out:
                                                                  4,260 mL
                                                                  1,480 mL
   Urine:
                                                                  4,260 mL
                                                                  1,430 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,428 mL
                                                                 -1,240 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   169 K/uL
   102 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   12 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2198-9-20**]  08:17 PM
                             [**2198-9-21**]  12:03 AM
                             [**2198-9-21**]  05:01 AM
                             [**2198-9-21**]  12:06 PM
                             [**2198-9-21**]  08:33 PM
                             [**2198-9-22**]  12:11 AM
                             [**2198-9-22**]  04:58 AM
                             [**2198-9-22**]  11:50 AM
                             [**2198-9-22**]  05:50 PM
                             [**2198-9-23**]  04:26 AM
   WBC
   7.6
   6.9
   6.0
   Hct
   23.3
   24.3
   24.2
   24.9
   25.6
   26.5
   30.4
   29.8
   31.1
   29.2
   Plt
   113
   142
   169
   Cr
   1.0
   0.8
   0.8
   TropT
   0.02
   Glucose
   103
   107
   102
   Other labs: PT / PTT / INR:12.8/32.7/1.0, CK / CKMB /
   Troponin-T:451/5/0.02, Alk Phos / T Bili:/0.4, LDH:175 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Post-op bleeding.
   ANEMIA -- attributed to bleeding into operative site.  No further
   clinical evidence for bleeding.  Hct stable.
   RIGHT HIP/FEMUR SURGERY -- improved.  Erythema adjacent to surgical
   incision (possible related to hematoma) --> monitor
   PAIN -- PO regimen.
   HYPOPHOSPHATEMIA -- replete to normal levels.
   TOE PAIN -- cholichicine
   NAUSEA -- transient.
   NUTRITIONAL SUPPORT -- encourage to advance PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2198-9-22**] 06:09 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes